US06509328B1
{4-Benzoyl-2-[3-(3-chloro-phenyl)-3-oxo-propionylamino]-phenyl}-carbamic Acid tert.-Butyl Ester
Prepared from (2-amino-4-benzoyl-phenyl)-carbamic acid tert.-butyl ester (Example G24) (205 mg, 0.66 mmol) and 6-(3-chloro-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one (Example J6) (174 mg, 0.73 mmol) according to the general procedure K. Obtained as a brown foam (232 mg).

reactant | (2-amino-4-benzoyl-phenyl)-carbamic acid tert.-butyl ester | 0.66 mmol, 205 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(C1=CC=CC=C1)=O)N)=O | C18H20N2O3
reactant | 6-(3-chloro-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one | 0.73 mmol, 174 mg | ClC=1C=C(C=CC1)C1=CC(OC(O1)(C)C)=O | C12H11ClO3
product | {4-Benzoyl-2-[3-(3-chloro-phenyl)-3-oxo-propionylamino]-phenyl}-carbamic Acid tert.-Butyl Ester | 232 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(C1=CC=CC=C1)=O)NC(CC(=O)C1=CC(=CC=C1)Cl)=O)=O | C27H25ClN2O5
